US08492378B2
2-[3-[1-(methoxymethyl)-1H-pyrazol-4-yl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
To a solution of 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole (213 mg, 0.80 mmol) and (chloromethyl) methyl ether (0.091 mL, 1.2 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (60% in oil, 60 mg, 1.2 mmol) by small portions at room temperature, and the resulting mixture was stirred for 10 min. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=1/1) and crystallized from hexane/ethyl acetate to give the title compound (128 mg, yield 52%) as colorless crystals.

reactant | 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole | 0.80 mmol, 213 mg | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C=2C=NNC2)C1 | C14H10N4O2
reactant | (chloromethyl) methyl ether | 1.2 mmol, 0.091 mL | COCCl | C2H5ClO
reactant | sodium hydride | 1.2 mmol, 60 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-[3-[1-(methoxymethyl)-1H-pyrazol-4-yl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | 128 mg, yield 52% | COCN1N=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C16H14N4O3
